US08134001B2
Preparation of intermediate 1-[2-(tert-butyl-dimethylsilanyloxy)-5-chloro-phenyl]-3-trimethylsilanyloxy-2-aza-1,3-butadiene
To a stirred solution of 1,1,1,3,3,3-hexamethyldisilazane (3.34 g, 20 mmol) at 0° C., n-Buli (2.5 M, 8 mL) was added slowly and the mixture was stirred for 15 min. Then THF (40 mL) was added followed by 4-chloro-2-tert-butyl-dimethylsilanyloxy-benzaldehyde (5.42 g, 20 mmol). The mixture was stirred at rt for 30 min. Then, trimethylsilanyl chloride (26 mmol), acetyl chloride (26 mmol) and trimethylamine (26 mmol) were added and the mixture was stirred at rt for 1 hr. The mixture was quickly passed through a short pad of silica gel and the pad was washed with 30% EtOAc/Hexanes to make sure the azadiene has completely passed through. The filtrate was concentrated at rt and directly used for the next step.

reactant | 1,1,1,3,3,3-hexamethyldisilazane | 20 mmol, 3.34 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 4-chloro-2-tert-butyl-dimethylsilanyloxy-benzaldehyde | 20 mmol, 5.42 g | ClC1=CC(=C(C=O)C=C1)O[Si](C)(C)C(C)(C)C | C13H19ClO2Si
reactant | trimethylsilanyl chloride | 26 mmol | C[Si](C)(C)Cl | C3H9ClSi
reactant | acetyl chloride | 26 mmol | C(C)(=O)Cl | C2H3ClO
reactant | trimethylamine | 26 mmol | CN(C)C | C3H9N
reactant | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-[2-(tert-butyl-dimethylsilanyloxy)-5-chloro-phenyl]-3-trimethylsilanyloxy-2-aza-1,3-butadiene | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C=C1)Cl)C=NC(=C)O[Si](C)(C)C | C18H30ClNO2Si2
